* G1_SENSE Monte Carlo: input-referred offset, mismatch models (MOS lv+hv, rppd), 200 samples
* Offset referred to the shunt: vos_tot = (ISENSE(Vsh=0) - 1.0 V)/20 with ideal VREF = 1.04 V (pedestal 51/53 VREF = 1.000755 V)
* (includes main OTA offset, pedestal divider + buffer errors /20, resistor mismatch).
.param VDDA=3.3 VREF=1.04 VPEDN=1.000755
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt_mismatch
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt_mismatch
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ_mismatch
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.temp @@TEMP@@
.include netlist/g1_sense.spice
.option gmin=1e-13
* three unity/inverting OTA loops: give the DC solver their operating points
.nodeset v(vref_buf)={VREF} v(vped)={VPEDN} v(isense)={VPEDN} v(xdut.vp)=0.047 v(xdut.vn)=0.047 v(xdut.iptat)=0.76
+ v(xdut.xref.out1)={VDDA-0.79} v(xdut.xbuf.out1)={VDDA-0.79} v(xdut.xota.out1)={VDDA-0.79} v(xdut.xref.mir)={VDDA-0.79} v(xdut.xbuf.mir)={VDDA-0.79} v(xdut.xota.mir)={VDDA-0.79}
+ v(xdut.xref.tail)=1.65 v(xdut.xbuf.tail)=1.65 v(xdut.xota.tail)=1.6 v(xdut.xref.fn)=0.2 v(xdut.xref.fp)=0.2 v(xdut.xbuf.fn)=0.2 v(xdut.xbuf.fp)=0.2 v(xdut.xota.fn)=0.2 v(xdut.xota.fp)=0.2
.option itl1=400 itl2=200
Vdd vdd 0 dc {VDDA}
Vref vref 0 dc {VREF}
* G1_BGR iptat: 4.13 uA at 27 C, PTAT
Iib vdd iptat dc {4.13u*(@@TEMP@@+273.15)/300.15}
Vcm cm 0 dc 0
Vsh shp cm dc 0
XDUT shp cm vref iptat isense vped vref_buf vdd 0 g1_sense
XRL1 isense icmp sub! rppd w=2u l=384.3u m=1 b=0
XRL2 icmp 0 sub! rppd w=2u l=384.3u m=1 b=0
XCH icmp 0 cap_cmim w=26u l=26u m=1
.control
set filetype=ascii
set rndseed=@@SEED@@
let n = @@N@@
let i = 0
while i < n
  reset
  op
  let vos_tot0 = (v(isense) - VPEDN)/20
  let vos_ota0 = v(xdut.vp) - v(xdut.vn)
  let vped0 = v(vped)
  echo "MCA" $&i " vos_tot_cm0=" $&vos_tot0 " vos_ota=" $&vos_ota0 " vped=" $&vped0
  alter Vcm dc = 0.3
  op
  let vos_tot3 = (v(isense) - VPEDN)/20
  echo "MCB" $&i " vos_tot_cm0.3=" $&vos_tot3
  alter Vcm dc = 0
  let i = i + 1
end
.endc
.end
